US04461907
2-Hydroxy-4'-methoxychalcone (12.7 g) was stirred with ethanol (200 ml) and sodium borohydride (3.8 g) added in portions. The solution was stirred at room temperature, the solvent evaporated, and the residue washed with water and recrystallised from aqueous ethanol to give 3-(o-hydroxyphenyl)-1-(p-methoxyphenyl)propan-1-ol (8.60 g), m.p. 114°-116°. The total product was boiled under reflux with acetic acid (100 ml) for 2 hr., the solution evaporated, and the residue chromatographed on alumina, eluting with toluene, to yield 4'-methoxyflavan (8.0 g), m.p. 82°-83°.

reactant | 2-Hydroxy-4'-methoxychalcone | 12.7 g | OC1=C(C=CC=C1)C=CC(=O)C1=CC=C(C=C1)OC | C16H14O3
reactant | sodium borohydride | 3.8 g | [BH4-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-(o-hydroxyphenyl)-1-(p-methoxyphenyl)propan-1-ol | 8.60 g | OC1=C(C=CC=C1)CCC(O)C1=CC=C(C=C1)OC | C16H18O3
